US08710284B2
d) Synthesis of 2,11-dibromo-5,6,6a,7,8,12b-hexahydrobenzo-[c]phenanthrene
37 ml (337 mmol) of titanium tetrachloride are added dropwise to a solution of 48 g (118 mmol) of 1,1-di-(p-bromophenylethyl)epoxyethane in 250 ml of chlorobenzene, and the mixture is stirred at 80° C. for 18 h. The reaction mixture is carefully poured into 100 ml of ice-water, the phases are separated, and the aqueous phase is extracted three times with 70 ml of chloroform. The combined organic phases are washed with 100 ml of saturated NaCl solution and 100 ml of NaHCO3 solution and dried over sodium sulfate, the solvent is stripped off, and the residue is recrystallised from ethanol. Yield: 43 g (110 mmol), 94%.

reactant | 1,1-di-(p-bromophenylethyl)epoxyethane | 118 mmol, 48 g | BrC1=CC=C(C=C1)CCC1(CO1)CCC1=CC=C(C=C1)Br | C18H18Br2O
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | titanium tetrachloride | 337 mmol, 37 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2,11-dibromo-5,6,6a,7,8,12b-hexahydrobenzo-[c]phenanthrene | BrC1=CC2=C(CCC3CCC=4C=CC(=CC4C23)Br)C=C1 | C18H16Br2
